US04675316
B. 1-(Cyano-p-chlorophenylthiomethyl)imidazole
Into a 125 ml three-necked round bottom flask are placed 33 g (0.15 mole) of α-chloro-α-p-chlorophenylthioacetonitrile and 33 g (0.48 mole) of imidazole. The mixture is heated to 60° when an exothermic reaction sets in (110°). It is then cooled to room temperature, poured into water and extracted with ether. The combined ether extracts are evaporated to give 20 g of a brown solid which when triturated with ether gives 7 g of pure product, mp 120°-2°.

reactant | α-chloro-α-p-chlorophenylthioacetonitrile | 0.15 mole, 33 g | ClC(C#N)SC1=CC=C(C=C1)Cl | C8H5Cl2NS
reactant | imidazole | 0.48 mole, 33 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 1-(Cyano-p-chlorophenylthiomethyl)imidazole | 20 g | C(#N)C(N1C=NC=C1)SC1=CC=C(C=C1)Cl | C11H8ClN3S
